US09278950B2
Step 2. 1-tert-Butyl 2-methyl (2S,4R)-4-methyl-5-oxopyrrolidine-1,2-dicarboxylate
This compound is prepared as described by Gu et al, Tetrahedron Lett., 2003, 44, 3203-3205. Lithium hexamethyldisilazide in THF (1.0 M; 8.47 mL, 8.47 mmol) was added dropwise over 30 min. to a solution of 1-tert-butyl 2-methyl (2S)-5-oxopyrrolidine-1,2-dicarboxylate (2.0 g, 8.2 mmol) in THF (20 mL) at −78° C. The resulting mixture was stirred at −78° C. for 1 h. Methyl iodide (1.30 mL, 20.9 mmol) was then added dropwise over 10 min. After stirring at −78° C. for 2 h, the reaction mixture was allowed to warm to room temperature and stirred for 14 h. The reaction was then quenched with AcOH (1.00 mL, 17.6 mmol), and the reaction mixture was concentrated under reduced pressure. The residue was diluted with EtOAc (100 mL), washed with brine (100 mL), dried over Na2SO4, and concentrated under reduced pressure. The resulting residue was purified by flash chromatography on silica gel (0-50% EtOAc in hexanes) to give the sub-title compound (0.47 g, 22%). LCMS calc. for C12H19NNaO5 (M+Na)+: m/z=280.1. found 280.1. 1H NMR (CDCl3, 400 MHz) δ 4.57 (1H, dd, J=1.6 and 9.6 Hz), 3.77 (3H, s), 2.68 (1H, m), 2.27 (1H, m), 1.93 (1H, m), 1.49 (9H, s), 1.21 (3H, d, J=6.8 Hz) ppm.

reactant | Lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1-tert-butyl 2-methyl (2S)-5-oxopyrrolidine-1,2-dicarboxylate | 8.2 mmol, 2.0 g | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
reactant | Methyl iodide | 20.9 mmol, 1.30 mL | CI | CH3I
reactant | AcOH | 17.6 mmol, 1.00 mL | CC(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 8.47 mmol, 1.0 M, 8.47 mL | C1CCOC1 | C4H8O
product | 1-tert-Butyl 2-methyl (2S,4R)-4-methyl-5-oxopyrrolidine-1,2-dicarboxylate | 0.47 g, 22% | C[C@@H]1C[C@H](N(C1=O)C(=O)OC(C)(C)C)C(=O)OC | C12H19NO5
